US05158966
A. Preparation of 3-(1,1-dimethylethyl)-4hydroxybenzaldehyde
Into 101.5 g of N-methylformanilide was added dropwise with cooling 107 g of phosphoryl chloride over a period of 15 minutes. The mixture was allowed to warm to room temperature and stirred for 70 minutes. 67.5 g of ortho-t-butylphenol was added and stirred for about 45 minutes after which the mixture was heated to about 50-60° C. and allowed to stir for 4.5 hours. The reaction mixture was poured into a volume of crushed ice and extracted with chloroform. The aqueous layer was separated and washed again with chloroform. The chloroform layers were combined and extracted with 2000 ml of a 5% potassium hydroxide solution. The aqueous potassium hydroxide layer was separated and added to 1000 ml of chloroform. The pH of the resulting two-phase mixture was adjusted to 3 with concentrated hydrochloric acid with stirring. The resultant layers were separated and the aqueous layer was again extracted with chloroform and dried over sodium sulfate overnight to give 18.1 g of the desired subtitled intermediate.

reactant | N-methylformanilide | 101.5 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphoryl chloride | 107 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ortho-t-butylphenol | 67.5 g | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
product | 3-(1,1-dimethylethyl)-4hydroxybenzaldehyde | 18.1 g | CC(C)(C)C=1C=C(C=O)C=CC1O | C11H14O2
